US09353108B2
F) Ethyl 5-cyano-6-hydroxy-2-methylnicotinate
A mixed solution of ethyl 3-oxobutanoate (40.0 mL) and N,N-dimethylformamide dimethyl acetal (46.1 mL) in ethanol (80 mL) was stirred at 41° C. to 43° C. for 5 hours. The reaction mixture was cooled to 20° C., and then, triethylamine (4.40 mL) was added thereto. While the reaction mixture was cooled to keep the temperature at 25° C. to 36° C., a mixture of malononitrile (22.9 mL) and ethanol (177 mL) was added dropwise thereto, and the mixture was stirred overnight at room temperature. Acetic acid (21.7 mL) was added to the reaction mixture at 20° C. to 25° C., and then, water (560 mL) was added thereto under heating at 70° C. to 75° C. The reaction mixture was cooled in ice, and then, the deposited solid was collected and washed with water to obtain the title compound (54.8 g).

reactant | ethyl 3-oxobutanoate | 40.0 mL | O=C(CC(=O)OCC)C | C6H10O3
reactant | N,N-dimethylformamide dimethyl acetal | 46.1 mL | COC(N(C)C)OC | C5H13NO2
reactant | triethylamine | 4.40 mL | C(C)N(CC)CC | C6H15N
reactant | malononitrile | 22.9 mL | C(CC#N)#N | C3H2N2
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | ethanol | 177 mL | C(C)O | C2H6O
solvent | water | 560 mL | O | H2O
solvent | Acetic acid | 21.7 mL | C(C)(=O)O | C2H4O2
product | Ethyl 5-cyano-6-hydroxy-2-methylnicotinate | 54.8 g | C(#N)C=1C(=NC(=C(C(=O)OCC)C1)C)O | C10H10N2O3
